US06426345B1
A mixture of 4-(3-aminophenyl)-2-benzyl-3-oxo-3,4-dihydropyrido[2,3-b]pyrazine (150 mg), phenylisothiocyanate (79 mg) in 1,4-dioxane (2 ml) was stirred at 80° C. for 4 hours. The precipitates were collected and washed with isopropyl ether to give 2-benzyl-3-oxo-4-[3-(3-(phenyl)thioureido)phenyl]-3,4-dihydropyrido[2,3-b]pyrazine (113 mg).

reactant | 4-(3-aminophenyl)-2-benzyl-3-oxo-3,4-dihydropyrido[2,3-b]pyrazine | 150 mg | NC=1C=C(C=CC1)N1C2=C(N=C(C1=O)CC1=CC=CC=C1)C=CC=N2 | C20H16N4O
reactant | phenylisothiocyanate | 79 mg | C1(=CC=CC=C1)N=C=S | C7H5NS
solvent | 1,4-dioxane | 2 ml | O1CCOCC1 | C4H8O2
product | 2-benzyl-3-oxo-4-[3-(3-(phenyl)thioureido)phenyl]-3,4-dihydropyrido[2,3-b]pyrazine | 113 mg | C(C1=CC=CC=C1)C1=NC2=C(N(C1=O)C1=CC(=CC=C1)NC(=S)NC1=CC=CC=C1)N=CC=C2 | C27H21N5OS
